US06403055B1
To a solution of N-[(phenylmethoxy)carbonyl]-L-tryptophan 1,1-dimethylethyl ester (36 g; 98 mmol) in EtOH (150 mL) Pd/C 10% (5 g) was added. A H2 atmosphere was set and hydrogenation was performed with the aid of a Venturi type stirrer. Reaction conversion was estimated by HPLC (Chromatographic method L/46). After 6 h at r.t. the suspension was filtered through paper, then through Millipore® HA 0.45 μm and the filtrate was concentrated under reduced pressure to give a crude oil. The crude was dissolved in CHCl3 (200 mL) and washed with 5% aq. Na2CO3 (200 mL) and brine (150 mL). The organic layer was dried over Na2SO4 and concentrated to give L-tryptophan-1,1-dimethylethyl ester (18.16 g), which was used in the following step without further purification.

reactant | N-[(phenylmethoxy)carbonyl]-L-tryptophan 1,1-dimethylethyl ester | 98 mmol, 36 g | CC(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O | C23H26N2O4
solvent | EtOH | 150 mL, 5 g | CCO | C2H6O
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | L-tryptophan-1,1-dimethylethyl ester | 18.16 g | CC(C)(C)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C15H20N2O2
